US05306718
Ethyl diazoacetate (43.4 g, 0.38 mol) was added slowly (syringe pump) over a period of 7 hours to a mixture of benzene (594.32 g, 7.61 mol) and tetrakis(perfluorobenzoato) dirhodium(II) (0.84 g, 00.16 mol). After stirring at room temperature for 16 hours, the solvent was removed and the oily residue distilled in vacuo to give 50.44 g (81%) of ethyl 1,3,5-cycloheptatriene-1-carboxylate: bp 90°-96° C. 2 4-3.0 mm Hg); 1H NMR (CDCl3) δ6.6 (m, 2H), 6.2 (m, 2H), 5.3 (m, 2H), 4.2 (q, 2H OCH2CH3), 2.5 (t, 1H), 1.3 (t, 3H CH2CH3)

reactant | Ethyl diazoacetate | 0.38 mol, 43.4 g | [N+](=[N-])=CC(=O)OCC | C4H6N2O2
reactant | benzene | 7.61 mol, 594.32 g | C1=CC=CC=C1 | C6H6
product | ethyl 1,3,5-cycloheptatriene-1-carboxylate | 50.44 g, 81% | C1(=CC=CC=CC1)C(=O)OCC | C10H12O2
